US08835689B2
a) 4-dimethylamino-1-methylamino-4-phenyl-cyclohexane carbonitrile
40% aqueous methylamine solution (8.7 mL, 69 mmol) and 4-dimethylamino-4-phenylcyclohexanone (3.13 g, 14.4 mmol) dissolved in methanol (15 mL) were added to a solution of 4N hydrochloric acid (3.75 mL) and methanol (2.25 mL) cooled to 0° C. The reaction mixture was then mixed with potassium cyanide (2.25 g, 34 mmol) and stirred for 5 d at RT. For work up the mixture was mixed with water (60 mL) and extracted with ether (3×50 ml). The combined organic phases were dried with sodium sulphate and concentrated to low volume in a vacuum.

reactant | methylamine | 69 mmol, 8.7 mL | CN | CH5N
reactant | 4-dimethylamino-4-phenylcyclohexanone | 14.4 mmol, 3.13 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | hydrochloric acid | 4N, 3.75 mL | Cl | ClH
reactant | potassium cyanide | 34 mmol, 2.25 g | [C-]#N.[K+]
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 2.25 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | 4-dimethylamino-1-methylamino-4-phenyl-cyclohexane carbonitrile | CN(C1(CCC(CC1)(C#N)NC)C1=CC=CC=C1)C | C16H23N3
